US07504513B2
In a similar manner as described for Example 53, 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (41 mg, 0.1 mmol) and m-toluic acid hydrazide (15.0 mg, 0.1 mmol, Lancaster) gave 3-Methyl-benzoic acid N′-[4-(3-chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carbonyl]-hydrazide (2.1 mg, 3.8%) as a white solid. MS m/z 548 (M+1).

reactant | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 0.1 mmol, 41 mg | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14ClN3O4S
reactant | m-toluic acid hydrazide | 0.1 mmol, 15.0 mg | C1(=CC(=CC=C1)C(=O)NN)C | C8H10N2O
product | 3-Methyl-benzoic acid N′-[4-(3-chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carbonyl]-hydrazide | 2.1 mg, 3.8% | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)NNC(C1=CC(=CC=C1)C)=O)N1C=NC2=C1C=C(C(=C2)OC)OC | C27H22ClN5O4S
